US06900226B2
Preparation of 7-(4-Methoxy-phenyl)-2-methyl-4-pyrrolidin-1-yl-quinazoline; Compound with Formic Acid:
To a solution of 44 mg (0.15 mmol) 7-Bromo-2-methyl-4-pyrrolidin-1-yl-quinazoline in 1.2 ml dioxane/dimethoxyethane 1:1 was added 57 mg (0.375 mmol) 4-methoxy-phenyl-boronic acid in 0.4 ml ethanol, 7 mg (0.007 mmol) Dichloro[1,1′-Bis(diphenylphosphino)-ferrocene]-palladium (II) dichloromethan adduct, and 0.6 ml 2 M Na2CO3aq. and the mixture was heated to 85° C. for 12 h. After filtration, the mixture was purified by reversed phase column chromatography eluting with an acetonitrile/water (formic acid) gradient yielding 17 mg (35%) of the title compound. MS m/e (%): 320.4 (M+H+, 100).

reactant | 7-Bromo-2-methyl-4-pyrrolidin-1-yl-quinazoline | 0.15 mmol, 44 mg | BrC1=CC=C2C(=NC(=NC2=C1)C)N1CCCC1 | C13H14BrN3
reactant | 4-methoxy-phenyl-boronic acid | 0.375 mmol, 57 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | dioxane dimethoxyethane | 1.2 ml | O1CCOCC1.C(OC)COC
solvent | ethanol | 0.4 ml | C(C)O | C2H6O
catalyst | Dichloro[1,1′-Bis(diphenylphosphino)-ferrocene] palladium (II) dichloromethan | 0.007 mmol, 7 mg | ClC1=C([C-](C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].ClCCl.[Pd+2]
product | 7-(4-Methoxy-phenyl)-2-methyl-4-pyrrolidin-1-yl-quinazoline; Compound with Formic Acid | 17 mg, 35% | C(=O)O.COC1=CC=C(C=C1)C1=CC=C2C(=NC(=NC2=C1)C)N1CCCC1 | InChI=1S/C20H21N3O.CH2O2/c1-14-21-19-13-16(15-5-8-17(24-2)9-6-15)7-10-18(19)20(22-14)23-11-3-4-12-23;2-1-3/h5-10,13H,3-4,11-12H2,1-2H3;1H,(H,2,3)
